US04851526
N,N-Dimethyl-2-[4-(1H-imidazol-1-yl)phenylmethyl]-cyclohexanamine
In a manner similar to Example 28, react [2-(dimethylamino)cyclohexyl][4-(1H-imidazol-1-yl)phenyl]methanone with potassium hydroxide and hydrazine in diethylene glycol to obtain the title compound.

reactant | [2-(dimethylamino)cyclohexyl][4-(1H-imidazol-1-yl)phenyl]methanone | CN(C1C(CCCC1)C(=O)C1=CC=C(C=C1)N1C=NC=C1)C | C18H23N3O
reactant | potassium hydroxide | [OH-].[K+]
reactant | hydrazine | NN | H4N2
solvent | diethylene glycol | C(COCCO)O | C4H10O3
product | N,N-Dimethyl-2-[4-(1H-imidazol-1-yl)phenylmethyl]-cyclohexanamine | CN(C1C(CCCC1)CC1=CC=C(C=C1)N1C=NC=C1)C | C18H25N3
